US04855407
15.5 g of p-toluoyl chloride and 13.3 g of aluminum chloride were mixed in 250 ml of dichloroethane in a dropping funnel. The solution was added dropwise to the cooled, stirred suspension of the resin beads over a period of about 40 min., care being taken not to allow the reaction to warm up above 5° C. The stirring was continued for 4 hours at room temperature when the resin was washed sequentially with isopropanol, isopropanol-water (1:1 mixture), isopropanol and dried to give 53.8 g of p-toluoyl resin. This resin was then mixed with 168 g of ammonium formate, 201 ml of formamide, 134 ml of formic acid and 350 ml of nitrobenzene. The mixture was gradually heated up to 165°-170° C. under reflux and maintained for 1 day during which time about 115 ml of the aqueous phase was collected into a Dean-Stark trap. The resin was washed and dried as above to yield 55.5 g of N-formyl methylbenzhydrylamine resin. The product was hydrolyzed in a mixture of 300 ml each of 12N HCl and isopropanol under reflux for 3 hr. Washing and drying the resulting resin provided 54.9 g of the hydrochloride form of methylbenzhydrylamine resin. It showed a very strong positive reaction to ninhydrin reagent and incorporated 0.4 mmol of Boc-Ala-OH when neutralized and coupled with Boc-Ala-OH in the presence of dicyclohexylcarbodiimide.

reactant | p-toluoyl chloride | 15.5 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | aluminum chloride | 13.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ammonium formate | 168 g | C(=O)[O-].[NH4+]
reactant | formamide | 201 ml | C(=O)N | CH3NO
reactant | nitrobenzene | 350 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | dichloroethane | 250 ml | ClC(C)Cl | C2H4Cl2
solvent | formic acid | 134 ml | C(=O)O | CH2O2
product | N-formyl methylbenzhydrylamine | 55.5 g | C(=O)N(C(C1=CC=CC=C1)C1=CC=CC=C1)C | C15H15NO
